US07368578B2
A mixture of 3-formylphenyl methanesulfonate (41.40 g), 2,3-butanedione-2-oxime (20.91 g) and 4N hydrogenchloride-ethyl acetate solution (250 mL) was stirred at room temperature for 5 days. After concentration of the reaction mixture, the residue was decanted and washed with diethyl ether. To the obtained residue was added tetrahydrofuran (300 mL), and thionyl chloride (37.00 g) was further added. The mixture was heated under reflux for 3 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography. 3-(4-Chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl methanesulfonate from the eluted portion of ethyl acetate-hexane (1:3 to 1:1, v/v) was obtained as colorless crystals (34.29 g, 55%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 102-103° C.

reactant | 3-formylphenyl methanesulfonate | 41.40 g | CS(=O)(=O)OC1=CC(=CC=C1)C=O | C8H8O4S
reactant | 2,3-butanedione-2-oxime | 20.91 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogenchloride ethyl acetate | 4N, 250 mL | Cl.C(C)(=O)OCC
product | 3-(4-Chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl methanesulfonate | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)CCl)C | C12H12ClNO4S
